US06313312B1
3-(3-Hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzonitrile
To a solution of ethyl 3-(chloromethyl)-2-(3-cyanophenyl)-2-methylcyclopropane-carboxylate (Preparation 35, 5.82 g, 21.1 mmol) in N,N-dimethylformamide (20 ml) at room temperature was added sodium hydrogen carbonate (1.77 g, 21.1 mmol) followed by hexylamine (16.7 ml, 0.13 mol). The mixture was then heated under reflux for 16 h, cooled to room temperature and poured onto ice. After warming to room temperature, the mixture was partitioned against diethyl ether (50 ml). The two layers were separated and the aqueous layer was extracted with diethyl ether (2×30 ml). The ethereal extracts were washed with water (50 ml), dried (MgSO4), filtered and concentrated in vacuo. The crude oil was purified by silica column chromatography eluting with a gradient of hexane:ethyl acetate (5:1 to 0:100) to afford the title compound (2.2 g, 35%) as a colourless oil.

reactant | ethyl 3-(chloromethyl)-2-(3-cyanophenyl)-2-methylcyclopropane-carboxylate | 21.1 mmol, 5.82 g | ClCC1C(C1C(=O)OCC)(C)C1=CC(=CC=C1)C#N | C15H16ClNO2
reactant | sodium hydrogen carbonate | 21.1 mmol, 1.77 g | C(O)([O-])=O.[Na+]
reactant | hexylamine | 0.13 mol, 16.7 ml | C(CCCCC)N | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(3-Hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzonitrile | 2.2 g, 35% | C(CCCCC)N1C(C2C(C2C1)(C)C=1C=C(C#N)C=CC1)=O | C19H24N2O
